US04405552
EXAMPLE 44: 2-AMINO-6-CHLORO-5-(4-CHLOROPHENYL)-3-PYRIDINECARBOXYLIC ACID, ETHYL ESTER
6-Chloro-5-(4-chlorophenyl)-2-formamido-3-pyridinecarboxylic acid, ethyl ester (0.5 gram) was partially dissolved in 50 ml ethanol and treated with about 5-6 drops concentrated HCl. The reaction mixture was refluxed for approximately 3 hours, and upon cooling, a solid precipitate was collected, yield 350 mg, m.p. 195°-198° C.

reactant | 6-Chloro-5-(4-chlorophenyl)-2-formamido-3-pyridinecarboxylic acid, ethyl ester | 0.5 gram | ClC1=C(C=C(C(=N1)NC=O)C(=O)OCC)C1=CC=C(C=C1)Cl | C15H12Cl2N2O3
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | HCl | about 5-6 drops | Cl | ClH
product | 2-AMINO-6-CHLORO-5-(4-CHLOROPHENYL)-3-PYRIDINECARBOXYLIC ACID, ETHYL ESTER | NC1=NC(=C(C=C1C(=O)OCC)C1=CC=C(C=C1)Cl)Cl | C14H12Cl2N2O2
